US04978759
(1) Dehydrated Boc-leucine:
5 g of Boc-Leu-OH.H2O and 100 ml of toluene are mixed in a 500 ml round-bottomed flask with a ground glass neck, and azeotropic evaporation of the water is then carried out twice in succession in a rotary evaporator. The dehydrated product, in the form of an oil, is left overnight in a desiccator over phosphorus pentoxide.

reactant | Boc-Leu-OH.H2O | 5 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Boc-leucine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
